US04841043
Preparation of Allyl 2-diazo-3-keto-4-bromopentanoate
To an ice-cooled solution of allyl 2-diazo-3-ketopentanoate (9.1 g, 0.05 mole) in 100 mL of CH2CL2, was added 8.35 mL of triethylamine, followed by dropwise addition of 11.6 mL trimethylsilyl triflate (13.34 g, 0.06 mole) over twenty minutes. The resulting solution (orange) was stirred at 0° C. for one hour. A solution of bromine (8.0 g, 0.05 mole) in 30 mL CH2Cl2 was added over twenty minutes at 0° C. The mixture was stirred at 0° C. for one hour. The reaction mixture was then washed with water three times, dried over magnesium sulphate and concentrated to give the title compound as an oil (12.74 G, 97% yield).

reactant | allyl 2-diazo-3-ketopentanoate | 0.05 mole, 9.1 g | [N+](=[N-])=C(C(=O)OCC=C)C(CC)=O | C8H10N2O3
reactant | triethylamine | 8.35 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl triflate | 0.06 mole, 11.6 mL, 13.34 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | bromine | 0.05 mole, 8.0 g | BrBr | Br2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Allyl 2-diazo-3-keto-4-bromopentanoate | 97% yield | [N+](=[N-])=C(C(=O)OCC=C)C(C(C)Br)=O | C8H9BrN2O3
